US04092311
A mixture of 86.3 g of 6-(p-bromophenyl)-4,5-dihydro-3(2H)-pyridazinone (prepared as described in Example 5 of U.S. Pat. No. 3,689,652) in 500 ml. of glacial acetic acid is heated to 80° C. with continuous stirring. A solution of 60 g. (19.2 ml) of bromine in 80 ml. of acetic acid is added dropwise at 75°-80° C. over a period of 1 hour. The mixture is heated with stirring on a steam bath for 1/2 hour more and then poured into 3 liters of cracked ice and water. The white solid is collected by filtration and air dried, yielding 6-(p-bromophenyl)-3(2H)-pyridazinone.

reactant | 6-(p-bromophenyl)-4,5-dihydro-3(2H)-pyridazinone | 86.3 g | BrC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H9BrN2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | bromine | 19.2 ml | BrBr | Br2
solvent | water | O | H2O
product | 6-(p-bromophenyl)-3(2H)-pyridazinone | BrC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7BrN2O
